US07825253B2
N5-(1H-Indol-4-ylmethyl)-N2-(2-methoxy-benzyl)-quinoline-2,5-diamine
The title compound, MS: m/e=409.5 (M+H+), was prepared from 5-nitro-2-chloroquinoline, 2-methoxybenzylamine and 4-indole-carboxaldehyde as described in example 26.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 2-methoxybenzylamine | COC1=C(CN)C=CC=C1 | C8H11NO
reactant | 4-indole-carboxaldehyde | N1C=CC=2C(=CC=CC12)C=O | C9H7NO
product | N5-(1H-Indol-4-ylmethyl)-N2-(2-methoxy-benzyl)-quinoline-2,5-diamine | N1C=CC2=C(C=CC=C12)CNC=1C=2C=CC(=NC2C=CC1)NCC1=C(C=CC=C1)OC | C26H24N4O
